US07897619B2
To a solution of dimethyl diazomethylphosphonate (0.60 g, 4.0 mmol) (prepared as described by Brown, D. et al., J. Org. Chem. 1996, 61(7), 2540-1 which is hereby incorporated by reference in its entirety and for all purposes as if specifically set forth herein) in 20 mL of THF at −78° C. was added potassium tert-butoxide (4.0 mL, 4.0 mmol). The mixture was stirred for 15 minutes and (S)-(−)-2-(tert-butoxycarbonylamino)-3-phenylpropanal (0.50 g, 2.0 mmol) (commercially available from 3B Scientific Corporation Product List (Order Number 3B3-015684)), was added in 2 mL of THF. The mixture was stirred for 10 minutes and then warmed to −35° C. and stirred for 1 hour. The reaction was then quenched with 10 mL of aqueous NH4Cl and stirred for 15 minutes. The biphasic mixture was diluted with 10 mL of water and partitioned in a separatory funnel. The aqueous portion was then extracted three times with 10 mL of EtOAc. The combined organic layers were washed with 25 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 20% EtOAc/hexanes) afforded (S)-tert-butyl 1-phenylbut-3-yn-2-ylcarbamate (0.18 g, 37% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.40-7.23 (m, 5H), 4.81-4.75 (m, 1H), 4.40-4.29 (m, 2H), 3.16 (dd, J=5.3 Hz, 14.2 Hz, 1H), 3.03 (dd, J=9.2 Hz, 5.1 Hz, 1H), 1.42 (s, 9H).

reactant | dimethyl diazomethylphosphonate | 4.0 mmol, 0.60 g | [N+](=[N-])=CP(OC)(OC)=O | C3H7N2O3P
reactant | potassium tert-butoxide | 4.0 mmol, 4.0 mL | CC(C)([O-])C.[K+]
reactant | (S)-(−)-2-(tert-butoxycarbonylamino)-3-phenylpropanal | 2.0 mmol, 0.50 g | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1=CC=CC=C1 | C14H19NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-phenylbut-3-yn-2-ylcarbamate | 0.18 g, 37% yield | C1(=CC=CC=C1)C[C@@H](C#C)NC(OC(C)(C)C)=O | C15H19NO2
